US05847125
2-Naphthalenesulphonyl β-benzyl-L-aspartic acid (3--4)
Morpholine (3.3 ml; 38 mmol) was added to a solution of 2-Naphthalenesulphonyl β-benzyl-L-aspartic acid allyl ester (3--3) (1.73 g; 3.8 mmol) and tetrakis (triphenylphosphine) palladium (0.42 g; 0.37 mmol) in dry THF (40 ml) under an atmosphere of argon. The reaction mixture was stirred at room temperature for 2 h and then evaporated to dryness. The resultant yellow oil was triturated with ethyl acetate followed by filtration of the white solid obtained. The crude product was dissolved in DCM (30 ml) and then washed successively with 2N HCl (30 ml) and brine (30 ml×3). The solution was dried (sodium sulphate). Filtration and evaporation of the solvent gave the product as a white solid.

reactant | Morpholine | 38 mmol, 3.3 ml | N1CCOCC1 | C4H9NO
reactant | 2-Naphthalenesulphonyl β-benzyl-L-aspartic acid allyl ester | 3.8 mmol, 1.73 g | C(C=C)OC([C@@](N)(C(C(=O)O)CC1=CC=CC=C1)S(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C24H23NO6S
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis (triphenylphosphine) palladium | 0.37 mmol, 0.42 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-Naphthalenesulphonyl β-benzyl-L-aspartic acid | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)[C@](N)(C(C(=O)O)CC1=CC=CC=C1)C(=O)O | C21H19NO6S
